US07351719B2
175) (E)-3-(4′-chloro-biphenyl-4-yl)-N-[4-(2-dimethylamino-ethyl )-phenyl]-acrylamide
Prepared analogously to Example 172 starting from (E)-3-(4′-chloro-biphenyl-4-yl)-acrylic acid and 4-(2-dimethylamino-ethyl)-phenylamine.

reactant | (E)-3-(4′-chloro-biphenyl-4-yl)-acrylic acid | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C=C/C(=O)O | C15H11ClO2
reactant | 4-(2-dimethylamino-ethyl)-phenylamine | CN(CCC1=CC=C(C=C1)N)C | C10H16N2
product | (E)-3-(4′-chloro-biphenyl-4-yl)-N-[4-(2-dimethylamino-ethyl )-phenyl]-acrylamide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC=C(C=C1)CCN(C)C | C25H25ClN2O
